US08182854B2
After 20 g of commercially available instant coffee (Nescafe Gold Blend with Red Label) was dissolved in 1400 mL of distilled water (the solution thus obtained will hereinafter be called “Coffee P”), 30 g of activated carbon “Shirasagi WH2c 28/42” (product of Japan EnviroChemicals, Ltd.) was added to the resulting solution. The resulting mixture was stirred for one hour and then, filtered through a membrane filter (0.45 μm) to yield a filtrate (which will hereinafter be called “Coffee Q”). The resulting filtrate was freeze dried, whereby 15.8 g of brown powder was obtained. The resulting brown powder was dissolved in distilled water and amounts of chlorogenic acids and HHQ were determined by HPLC analysis as in Example 1. As a result, the chlorogenic acid content was 4.12 wt. %, while the HHQ content was below the detection limit (in accordance with the analysis conditions B). In addition, the potassium content was measured by ICP emission spectrometry. The potassium content in each of the raw material instant coffee and coffee treated with activated carbon was about 4.2 wt. %. Analysis results of coffee P, coffee Q and gallic acid by HPLC are shown by the respective charts in FIGS. 5 and 6. In coffee Q, a peak in the vicinity of a retention time of 6.8 minutes disappears and there exists no peak substantially. In FIG. 5, a represents the chart of coffee P, b represents the chart of coffee Q and c represents a chart of gallic acid. In FIG. 6, b represents the chart of coffee P, c represents the chart of coffee Q and a represents the chart of gallic acid.

reactant | chlorogenic acid | C1=CC(=C(C=C1/C=C/C(=O)O[C@@H]2C[C@@](C[C@H]([C@H]2O)O)(C(=O)O)O)O)O | C16H18O9
reactant | potassium | [K] | K
solvent | water | O | H2O
product | gallic acid | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
